US05977410
(2) Synthesis of N-[2-(4-trifluoromethoxyphenoxy)ethyl]-2-chlorobenzamide (Compound (1-3))
A tetrahydrofuran (5 ml) solution of 2-chlorobenzoyl chloride (0.88 g) was added dropwise under ice-cooling and stirring to a tetrahydrofuran (20 ml) solution of 2-(4-trifluoromethoxyphenoxy)ethylamine (1.10 g) and triethylamine (0.51 g) and the mixture was further stirred at room temperature for one hour.

reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | 2-chlorobenzoyl chloride | 0.88 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 2-(4-trifluoromethoxyphenoxy)ethylamine | 1.10 g | FC(OC1=CC=C(OCCN)C=C1)(F)F | C9H10F3NO2
solvent | triethylamine | 0.51 g | C(C)N(CC)CC | C6H15N
product | N-[2-(4-trifluoromethoxyphenoxy)ethyl]-2-chlorobenzamide | FC(OC1=CC=C(OCCNC(C2=C(C=CC=C2)Cl)=O)C=C1)(F)F | C16H13ClF3NO3
